* Z:\run\media\aymerick\688229EC3111185C\SpaceTech\EXP_SCHUMANN\Simulations_LTSPICE\simulation_ADA.asc
R2 OUT_preamp N004 1K
XU1 P001 N001 +16V -16V N004 NC_01 ADA4530-1
R1 N002 N007 200K
C2 N007 N003 1µ
C3 N002 N003 120n
C4 N002 N003 22n
R3 N003 0 100k
V5 N005 0 5
XU2 0 N007 N005 N009 N002 AD8642
XU3 N008 N006 P002 0 Out AD8642
R4 N006 N002 240K
R5 0 N008 120K
R6 N008 N010 270K
R7 Out N006 150K
V6 N010 0 5
V7 P002 0 5
V4 N009 0 -5
V3 Input 0 SINE(0 20u 10)
V2 0 -16V 16
V1 +16V 0 16
R8 P001 Input 4m
R9 OUT_preamp N001 150
C1 OUT_preamp 0 100n
.tran 0 5 0
.lib ADI.lib
.lib ADI1.lib
.backanno
.end
